US07173031B2
A) 2-Phenylacetyl isocyanate
To a suspension of 2-phenylacetamide (68 mg, 0.5 mmol) in dichloroethane (2 mL) was added oxalyl chloride (0.175 mL, 2.0 mmol). The suspension dissolved quickly and a new suspension formed. LC/MS analysis of the reaction mixture after 5 min indicated none of the desired product had formed. The mixture was warmed to 80° C., LC/MS after 30 min indicated a small amount of product. The reaction was heated at 70° C. for 2 days and became mostly clear. LC/MS analysis indicated mostly product. The mixture was shaken and heated at 80° C. for another 4 h. Almost all of the yellow solid on the walls of the reaction vessel had dissolved. The mixture was concentrated in vacuo. The residue dissolved in dichloroethane (1.5 mL), concentrated, and redissolved in dichloroethane (2 mL). The resulting 0.25 M solution was used without further purification.

reactant | 2-phenylacetamide | 0.5 mmol, 68 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | oxalyl chloride | 2.0 mmol, 0.175 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 2-Phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
